US07138425B2
g) 2-[3-(5-Carboxy-1,3-dioxo-1,3-dihydro-isoindol-2-yl)phenyl]benzoxazole-7-carboxylic acid
Prepared by the method of Example 1b), from 2-(3-aminophenyl)benzoxazole-7-carboxylic acid (100 mg, 0.39 mmol) and 1,2,4-benzenetricarboxylic anhydride (75 mg, 0.39 mmol) the title compound was obtained, (148 mg, 32%). 1H NMR (DMSO) δ 8.50(m, 2H), 8.39(m, 2H), 8.17(m, 2H), 8.01(m, 1H), 7.88(m, 2H), 7.63(t, 1H). MS 429 m/z (M+H)+.

reactant | 2-(3-aminophenyl)benzoxazole-7-carboxylic acid | 0.39 mmol, 100 mg | NC=1C=C(C=CC1)C=1OC2=C(N1)C=CC=C2C(=O)O | C14H10N2O3
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.39 mmol, 75 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[3-(5-Carboxy-1,3-dioxo-1,3-dihydro-isoindol-2-yl)phenyl]benzoxazole-7-carboxylic acid | C(=O)(O)C=1C=C2C(N(C(C2=CC1)=O)C=1C=C(C=CC1)C=1OC2=C(N1)C=CC=C2C(=O)O)=O | C23H12N2O7
